US07468368B2
A) tert-Butyl 4-(2-chloro-4-pyrimidinyl)-1-piperazinecarboxylate
A mixture of 9.55 g of tert-butyl 1-piperazinecarboxylate, 7.64 g of 2,4-dichloropyrimidine and 8.6 g of NaHCO3 in 50 ml of EtOH is heated at reflux for 1 hour. It is concentrated under vacuum, the residue is taken up in water and extracted with DCM, the organic phase is dried over Na2SO4 and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, eluting with a DCM/AcOEt (90/10 to 60/40; v/v) mixture. Two compounds are separated:

reactant | tert-butyl 1-piperazinecarboxylate | 9.55 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2,4-dichloropyrimidine | 7.64 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | NaHCO3 | 8.6 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | tert-Butyl 4-(2-chloro-4-pyrimidinyl)-1-piperazinecarboxylate | ClC1=NC=CC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19ClN4O2
